US06586617B1
To a solution of 2-aminobenzonitrile (2.36 g (20.0 mmol in pyridine (10.0 ml), p-toluenesulfonyl chloride (4.20 g (22.0 mmol) was added with stirring at room temperature. After 15 hours' stirring at room temperature, water (100 ml) was added to the reaction mixture and stirring was continued for another 30 minutes. The crystals separated were filtered, washed with water and re-dissolved in chloroform. The soluble part in 1% aqueous sodium hydroxide solution was extracted from the chloroform solution. The extract was made acidic with hydrochloric acid and re-extracted with chloroform. The chloroform extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a product which then crystallized. The crystals were washed with diisopropyl ether and filtered to give 4.83 g (89%) of 2′-cyano-p-toluenesulfonanilide as white crystals.

reactant | 2-aminobenzonitrile | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 100 ml | O | H2O
solvent | pyridine | 10.0 ml | N1=CC=CC=C1 | C5H5N
product | 2′-cyano-p-toluenesulfonanilide | 4.83 g, 89% | C(#N)C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC=C1 | C14H12N2O2S
